US07253156B2
Synthesis of budesonide dodecylcarbonate
To the solution of budesonide (750 mg, 1.74 mmol) in DCM (7.5 mL) was added dodecyl chloroformate (513 mL, 1.617 mmol) and Et3N (533 μL, 3.825 mmol) at room temperature. The reaction mixture was stirred at room temperature for 7 hours. During this 7 hours more dodecyl chloroformate (510 μL, 1.616 mmol) and Et3N (440 μL, 3.18 mmol) were added. The reaction was followed by HPLC. The reaction mixture was poured into water (20 mL) and DCM (10 mL); the aqueous phase was extracted with DCM (10 mL). The combined organic phases were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to provide crude budesonide dodecylcarbonate. The product was purified by chromatography, eluted with Hexane:AcOEt=9:1 to 3:1 to provide 983 mg of 1:1 mixture of epimers (originated from budesonide) (96.78 area % purity on HPLC). 1H NMR (CDCl3) δ 0.80-2.25 (m, 45H), 2.36 (d, 1H, 13.4 Hz), 2.58 (t, 1H, 13.2 Hz), 4.19 (t, 2H, 6.7 Hz), 4.52 (bs, 1H), 4.6-5.2 (m, 5H), 6.03 (s, 1H), 6.30 (d, 1H, 10.1 Hz), 7.29 (d, 1H, 10.1 Hz). 13C NMR (CDCl3) δ 14.21, 14.38, 17.22, 17.35, 17.50, 17.78, 21.35, 22.94, 25.86, 28.83, 29.45, 29.60, 29.74, 29.80, 29.88, 30.57, 31.24, 32.16, 33.18, 33.68, 34.26, 35.26, 37.36, 41.17, 41.41, 44.24, 46.18, 47.61, 50.01, 53.14, 55.41, 55.52, 69.12, 69.18, 70.11, 70.22, 82.32, 83.57, 97.76, 98.62, 104.88, 108.63, 122.83, 128.24, 156.14, 169.81, 169.92, 186.74, 202.16 and 203.46. Mass spectrum (m/e) 643 (M+).

reactant | budesonide | 1.74 mmol, 750 mg | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
reactant | dodecyl chloroformate | 1.617 mmol, 513 mL | ClC(=O)OCCCCCCCCCCCC | C13H25ClO2
reactant | Et3N | 3.825 mmol, 533 μL | CCN(CC)CC | C6H15N
reactant | dodecyl chloroformate | 1.616 mmol, 510 μL | ClC(=O)OCCCCCCCCCCCC | C13H25ClO2
reactant | Et3N | 3.18 mmol, 440 μL | CCN(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | budesonide dodecylcarbonate | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C.C(CCCCCCCCCCC)OC([O-])=O | InChI=1S/C25H34O6.C13H26O3/c1-4-5-21-30-20-11-17-16-7-6-14-10-15(27)8-9-23(14,2)22(16)18(28)12-24(17,3)25(20,31-21)19(29)13-26;1-2-3-4-5-6-7-8-9-10-11-12-16-13(14)15/h8-10,16-18,20-22,26,28H,4-7,11-13H2,1-3H3;2-12H2,1H3,(H,14,15)/p-1/t16-,17-,18-,20+,21?,22+,23-,24-,25+;/m0./s1
